US05580884
UDP-glucose:
N-acylsphingosine glucosyltransferase (EC 2.4.1.80) activity was measured in rat brain homogenates and mouse macrophage tissue cultured cell (WEHI-3B) homogenates using a method adapted as follows from published conventional procedures [Vunnam and Radin, Chem. & Phys. of Lipids 26, 265-278 (1980); Shukla and Radin, Arch Biochem. Biophys. 283, 372-378 (1990)]: Dioleoylphosphatidylcholine and cerebroside liposomes containing 200 nmol ceramides Type IV (Sigma) were added to a reaction mixture (100 μl) composed of 40 mM 2-[N-morpholino]ethanesulfonic acid (MES) buffer, pH 6.5, 5 mM MnCl2, 2.5 mM MgCl2, 1 mM NADH and 8 μM UDP-[14C]-glucose (318 mCi/mmol, Amersham International, Amersham, U.K.). After incubation at 37° C. for 1-2 hr. the reaction was stopped by the addition of EDTA (25 mM) and KCl (50 mM). Radiolabelled glycolipids were extracted with 500 μl of chloroform:methanol (2:1 v/v) for 10 min. and the phases separated. The lower phase was washed twice with Folch theoretical upper phase and portions taken for scintillation counting. When imino sugars were tested for inhibitory activity, these were added at appropriate concentrations to homogenates and preincubated for 10 min. before sonication with ceramide containing liposomes. Control reactions were performed with liposomes containing no ceramide to measure the activity of transfer to endogenous acceptors.

reactant | Radin | CN/C(=C\[N+](=O)[O-])/NCCSCC1=CC=C(O1)CN(C)C.Cl
reactant | 2-[N-morpholino]ethanesulfonic acid | 40 mM | C1COCCN1CCS(=O)(=O)O.O
reactant | MgCl2 | 2.5 mM | [Mg+2].[Cl-].[Cl-]
reactant | NADH | 1 mM | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
reactant | EDTA | 25 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | KCl | 50 mM | [Cl-].[K+]
product | UDP-glucose | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)O)O)O)O | C15H24N2O17P2
